US08466282B2
{(3R,5S)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidin-3-yl}methyl acetate dihydrochloride
tert-Butyl (3R,5S)-3-(hydroxymethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (200 mg) was dissolved in ethyl acetate (2 ml), 4N hydrogen chloride-ethyl acetate (5 ml) was added, and the mixture was stirred for 1 hr. The solvent was evaporated under reduced pressure to give the object product (200 mg).

reactant | tert-Butyl (3R,5S)-3-(hydroxymethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 200 mg | OC[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H44N4O5
reactant | hydrogen chloride-ethyl acetate | 4N, 5 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | {(3R,5S)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidin-3-yl}methyl acetate dihydrochloride | 200 mg | Cl.Cl.C(C)(=O)OC[C@H]1CNC[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2 | InChI=1S/C25H38N4O4.2ClH/c1-18(2)16-29(21-13-20(14-26-15-21)17-33-19(3)30)25(31)24-27-22-9-5-6-10-23(22)28(24)11-7-8-12-32-4;;/h5-6,9-10,18,20-21,26H,7-8,11-17H2,1-4H3;2*1H/t20-,21+;;/m1../s1
